US08835428B2
2-(3-(4-(3-(2-Fluorophenyl)ureido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoic acid
2-[(3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester (800 mg) was dissolved in THF (20 ml). 1M aqueous LiOH solution (3.52 ml) was added and stirred at RT for 14 h. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was separated, dried over Na2SO4 and concentrated under reduced pressure to get off white solid which was crystallized from EtOAc to yield 490 mg (63%) white solid. MS (ES+): m/z 441 (M+1); 1HNMR (DMSO-d6, 300 MHz): δ 12.83 (bs, 1H), 9.34 (s, 1H), 8.95 (d, 1H), 8.63 (s, 1H), 8.13 (m, 1H), 7.85 (d, 2H), 7.68 (s, 1H), 7.62 (d, 2H), 7.24 (m, 1H), 7.14 (m, 1H), 7.02 (m, 1H), 4.26 (m, 1H), 2.21 (m, 1H), 0.95 (dd, 6H).

reactant | 2-[(3-{4-[3-(2-Fluoro-phenyl)ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-3-methyl-butyric acid methyl ester | 800 mg | COC(C(C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)=O | C23H23FN4O5
reactant | LiOH | 1M, 3.52 ml | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-(4-(3-(2-Fluorophenyl)ureido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoic acid | 490 mg, 63% | FC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)O)C(C)C)=O | C22H21FN4O5
